US04886835
The procedure is as in Example 2 for the preparation of ethyl (phenylthio)acetate starting with ethyl bromoacetate (11.7 g), a 2M ethanolic solution of sodium ethylate (35 cc) and 4-methoxythiophenol (10 g). Ethyl (4-methoxyphenylthio)acetate (13.6 g) is thereby obtained, and is used in the crude state in the subsequent syntheses.

reactant | ethyl (phenylthio)acetate | C1(=CC=CC=C1)SCC(=O)OCC | C10H12O2S
reactant | ethyl bromoacetate | 11.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium ethylate | 35 cc | CC[O-].[Na+]
reactant | 4-methoxythiophenol | 10 g | COC1=CC=C(C=C1)S | C7H8OS
product | Ethyl (4-methoxyphenylthio)acetate | 13.6 g | COC1=CC=C(C=C1)SCC(=O)OCC | C11H14O3S
